US09085576B2
To a solution of methyl 5-((triethylsilyl)ethynyl)picolinate (1.68 g, 6.05 mmol) in THF (12.11 ml) was added TBAF, 1.0M in THF (6.68 ml, 6.68 mmol, Sigma Aldrich). The reaction was allowed to stir for 6 hours at RT. The reaction was concentrated. The crude product was adsorbed onto a plug of silica gel and chromatographed through silica gel column eluting with a gradient of 10% to 100% EtOAc in hexane followed by 1% AcOH in EtOAc, to afford 5-ethynylpicolinic acid (0.05 g, 0.37 mmol, 6.10% yield).

reactant | methyl 5-((triethylsilyl)ethynyl)picolinate | 6.05 mmol, 1.68 g | C(C)[Si](CC)(CC)C#CC=1C=CC(=NC1)C(=O)OC | C15H21NO2Si
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 12.11 ml | C1CCOC1 | C4H8O
solvent | THF | 6.68 mmol, 6.68 ml | C1CCOC1 | C4H8O
product | 5-ethynylpicolinic acid | 0.37 mmol, 0.05 g, 6.10% yield | C(#C)C=1C=CC(=NC1)C(=O)O | C8H5NO2
